US07378418B2
279E. Preparation of 1-(5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazin-3-yl)hydrazine
To a solution of 3-chloro-5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazine (586 mg, 2.05 mmol) in pyridine (3 mL) at RT was added hydrazine monohydrate (0.6 mL). After addition, the reaction was heated to 100° C. for 3 h. After this time, the reaction mixture was cooled to RT. The reaction mixture was concentrated under reduced pressure and the residue was diluted with water. The resulting mixture was then extracted with EtOAc (3×50 mL). The combined organic layers were washed with saturted Nacl. The organic layer was dried (Na2SO4), filtered and concentrated. The resulting residue was triturated with EtOAc-hexane to give the title compound, 1-(5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazin-3-yl)hydrazine (450 mg, 78%) as an off-white solid. LC/MS (method A): RT=1.10 min, (M+H)+=282.

reactant | 3-chloro-5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazine | 2.05 mmol, 586 mg | ClC=1N=NC=C(C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C15H9ClFN3
reactant | hydrazine monohydrate | 0.6 mL | O.NN
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 1-(5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazin-3-yl)hydrazine | 450 mg, 78% | FC1=CC=C(C=C1)C=1C(=C(N=NC1)NN)C1=CC=NC=C1 | C15H12FN5
